data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2712,3012,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]#[C:11][C:12]([Br:13])([O:14][CH3:15])[CH2:16][CH2:17][CH2:18][CH2:19]1.[CH3:20][O:21][C:22](=[O:23])[N-:24][NH+:25]=[C:26]([C:27]([CH3:28])=[O:29])[C:30](=[O:31])[O:32][CH3:33]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]2=[C:11]([C:12]([Br:13])([O:14][CH3:15])[CH2:16][CH2:17][CH2:18][CH2:19]1)[C:26]([C:27]([CH3:28])=[O:29])([C:30](=[O:31])[O:32][CH3:33])[NH:25][N:24]2[C:22]([O:21][CH3:20])=[O:23],water,298.15,14.812954584781089,-29.69781772229674
4661,5316,[CH3:10][O:11][C:12](=[O:13])[c-:14]1[nH+:15][c:16](-[c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[o:23][c:24]1=[O:25].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:14]2([C:12]([O:11][CH3:10])=[O:13])[NH:15][C:16]1([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[O:23][C:24]2=[O:25],water,298.15,31.80015779893123,9.620412777195511
3438,3908,[CH3:10][O:11][C:12](=[O:13])[C-:14]([C:15]#[N:16])[N+:17]#[N:18].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[N:18]=[N:17][C:14]1([C:12]([O:11][CH3:10])=[O:13])[C:15]#[N:16],water,298.15,33.482995270586954,0.6072039671802316
4573,5218,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C:15]([CH3:16])=[N+:17]([CH3:18])[C-:19]([C:20]#[N:21])[C:22]([CH3:23])=[O:24]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:15]([C:13]([NH:12][CH3:11])=[O:14])([CH3:16])[N:17]([CH3:18])[C:19]2([C:20]#[N:21])[C:22]([CH3:23])=[O:24],water,298.15,36.72787510747072,1.2779559474698023
3209,3623,[CH3:10][c-:11]1[o+:12][n:13][o:14][c:15]1=[O:16].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@@H:6]([C:7]([CH3:8])=[CH2:9])[N:13]2[O:12][C:11]1([CH3:10])[C:15](=[O:16])[O:14]2,water,298.15,22.689800417854386,-11.221135409899048
141,157,[CH3:1][C:2](=[O:3])[C:4]#[C:5][Cl:6].[CH3:7][O:8][C:9](=[O:10])[N:11]=[O+:12][N-:13][C:14]([CH3:15])=[O:16]>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([Cl:6])[N:13]([C:14]([CH3:15])=[O:16])[O:12][N:11]1[C:9]([O:8][CH3:7])=[O:10],water,298.15,21.385226106832377,-75.91106670289882
3292,3731,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][O:6][C:7](=[O:8])[C-:9]([N+:10]#[N:11])[c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[C:9]([C:7]([O:6][CH3:5])=[O:8])([c:12]2[cH:13][cH:14][cH:15][cH:16][cH:17]2)[N:10]=[N:11]1,water,298.15,30.391138805449533,-8.472914657597181
3794,4344,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[N-:15][N+:16]#[C:17][C:18]([CH3:19])=[O:20]>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:17]([C:18]([CH3:19])=[O:20])=[N:16][N:15]2[C:13]([NH:12][CH3:11])=[O:14],water,298.15,20.632434675250803,-36.90529466659844
3141,3543,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][C:6](=[O:7])[C:8]#[N+:9][CH-:10][c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[CH:10]([c:11]2[cH:12][cH:13][cH:14][cH:15][cH:16]2)[N:9]=[C:8]1[C:6]([CH3:5])=[O:7],water,298.15,20.378767717630502,-40.62037137277181
244,267,[CH3:1][C:2]#[C:3][Cl:4].[CH3:5][NH:6][C:7](=[O:8])[C:9](=[O+:10][C-:11]([C:12]#[N:13])[C:14]#[N:15])[C:16]([CH3:17])=[O:18]>>[CH3:1][C:2]1=[C:3]([Cl:4])[C:9]([C:7]([NH:6][CH3:5])=[O:8])([C:16]([CH3:17])=[O:18])[O:10][C:11]1([C:12]#[N:13])[C:14]#[N:15],water,298.15,11.511795631211108,-71.3736281550425
4541,5181,[CH3:9][C:10](=[O:11])[C-:12]([C:13]#[N:14])[N+:15]([CH3:16])=[C:17]([C:18]#[N:19])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1.[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:12]([C:10]([CH3:9])=[O:11])([C:13]#[N:14])[N:15]([CH3:16])[C:17]1([C:18]#[N:19])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1,water,298.15,30.54276121447412,-13.54388483369535
3833,4387,[CH3:10][NH:11][C:12](=[O:13])[C:14]([C:15]#[N:16])=[NH+:17][C-:18]([CH3:19])[CH3:20].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:18]([CH3:19])([CH3:20])[NH:17][C:14]1([C:12]([NH:11][CH3:10])=[O:13])[C:15]#[N:16],water,298.15,23.33386667983824,-4.829727005057013
1714,1896,[CH3:18][NH:19][C:20](=[O:21])[C:22]([C:23]#[N:24])=[O+:25][C-:26]([CH3:27])[C:28]#[N:29].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]=[CH:15][CH:16]1[O:17]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]3[CH:15]([CH:16]1[O:17]2)[C:26]([CH3:27])([C:28]#[N:29])[O:25][C:22]3([C:20]([NH:19][CH3:18])=[O:21])[C:23]#[N:24],water,298.15,4.908136976224956,-62.52499148709976
